US07659267B2
3-[3-(4-Oxo-4H-1,3-benzothiazin-2-yl)phenyl]propionic acid
After tert-butyl 3-[3-(4-oxo-4H-1,3-benzothiazin-2-yl)phenyl]propionate (0.19 g, 0.52 mmol) was dissolved in trifluoroacetic acid (1.0 ml), the mixture was stirred at room temperature for 2 hours. Isopropyl ether was added to the reaction solution and the precipitated crystals were taken by filtration. The precipitates were recrystallized from ethanol-isopropyl ether to give the title compound (0.056 g, 35%) as crystals.

reactant | tert-butyl 3-[3-(4-oxo-4H-1,3-benzothiazin-2-yl)phenyl]propionate | 0.52 mmol, 0.19 g | O=C1N=C(SC2=C1C=CC=C2)C=2C=C(C=CC2)CCC(=O)OC(C)(C)C | C21H21NO3S
reactant | Isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[3-(4-Oxo-4H-1,3-benzothiazin-2-yl)phenyl]propionic acid | 0.056 g, 35% | O=C1N=C(SC2=C1C=CC=C2)C=2C=C(C=CC2)CCC(=O)O | C17H13NO3S
